US04743601
1,2-Dihydro-3-phenyl-3H-1,4-oxazino[2,3-c]quinoline
Sodium hydride (obtained from 2 g of 50% suspension in mineral oil) was added to a solution of 3-bromo-N-(2-hydroxy-2-phenylethyl)-4-quinolinamine (10 g) in 50 ml of DMF and the mixture was stirred at 90° C. for two hours. After cooling to room temperature, it was poured into 250 ml of water and the product extracted with two portions of 100 ml dichloromethane. The dichloromethane layer was dried over sodium sulfate and concentrated. The oily residue was dissolved in 80 ml of isopropanol, the solution was poured into 250 ml of ice water and the mixture was stirred for 1 hour. The solid was filtered and recrystallized from isopropanol. The yield was 3.1 g, mp 194°-195° C.

reactant | Sodium hydride | 2 g | [H-].[Na+]
reactant | 3-bromo-N-(2-hydroxy-2-phenylethyl)-4-quinolinamine | 10 g | BrC=1C=NC2=CC=CC=C2C1NCC(C1=CC=CC=C1)O | C17H15BrN2O
reactant | water | 250 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1,2-Dihydro-3-phenyl-3H-1,4-oxazino[2,3-c]quinoline | C1(=CC=CC=C1)C1CNC2=C(C=NC=3C=CC=CC23)O1 | C17H14N2O
